US06602647B2
In a 100 ml three-necked flask, 3.5 g of tetrahydrothiophene was dissolved in 40 ml of acetone. To the solution, 6 g of 1-bromo-2-butanone was added dropwise while stirring. After leaving for 24 hours, the deposited white crystal was collected by filtration. The white crystal was ground to a powder, which was washed with ether. The powder was dried by a vacuum drier at 30° C. for six hours to obtain 6.86 g of 2-oxobutyl-thiacyclopentanium bromide (yield: 72.2%).

reactant | 1-bromo-2-butanone | 6 g | BrCC(CC)=O | C4H7BrO
reactant | tetrahydrothiophene | 3.5 g | S1CCCC1 | C4H8S
solvent | acetone | 40 ml | CC(=O)C | C3H6O
product | 2-oxobutyl-thiacyclopentanium bromide | 6.86 g, yield: 72.2% | [Br-].O=C(C[S+]1CCCC1)CC | InChI=1S/C8H15OS.BrH/c1-2-8(9)7-10-5-3-4-6-10;/h2-7H2,1H3;1H/q+1;/p-1
